US09079866B2
5-{2′-[(4,4-Difluoropiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)-4,4-difluoropiperidine. MS (ESI): mass calcd. for C21H19F3N4O2S, 448.12; m/z found, 449.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.35 (s, 1H), 8.27 (d, J=1.4, 1H), 8.12 (d, J=8.0, 1H), 7.98 (m, 1H), 7.75-7.67 (m, 1H), 7.63 (m, 1H), 7.43 (d, J=7.6, 1H), 7.32 (d, J=10.6, 2H), 3.02-2.93 (m, 4H), 1.90-1.73 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)-4,4-difluoropiperidine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)(F)F | C11H12BrF2NO2S
product | 5-{2′-[(4,4-Difluoropiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | FC1(CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)F | C21H19F3N4O2S
